US07592463B2
(2S, 5S)-5-Benzyl-3-methyl-2-phenyl-imidazolidin-4-one (Catalyst 4):
A solution of (S)-phenylalanine methyl amide (5.0 g, 28.1 mmol), benzaldehyde (3.14 mL, 30.9 mmol), and p-toluenesulfonic acid monohydrate (535 mg, 2.8 mmol) dissolved in 40 mL of methanol was heated to 50° C. for 24 hours. Concentration of the reaction mixture followed by silica gel chromatography (3:1 ethyl acetate:hexanes) afforded the title compound in 32% yield (2.38 g, 8.9 mmol) and the more quickly eluting (2R, 5S) isomer in 58% yield (4.32 g, 16.2 mmol). IR (film) 3479, 3331, 3085, 3061, 3030, 2921, 2861, 2242, 1959, 1891, 1815, 1696, 1603, 1494, 1475, 1436, 1370, 1335, 1282, 1206, 1098, 1028, 1002, 920.0, 760.0, 743.2, 700.7 cm−1; 1H NMR (300 MHz, CDCl3) δ 7.25 (m, 8H, ArH), 6.82 (m, 2H, ArH), 5.10 (m, 1H, NCHN), 3.84 (dd, J=4.5, 4.5 Hz, 1H, CHCO), 3.22 (dd, J=14.1, 5.7 Hz, IH, one of CH2Ph), 3.11 (dd, J=14.1, 4.5 Hz, 1H, one of CH2Ph), 2.52 (s, 3H, CH3), 1.87 (br s, 1H, NH); 13C NMR (75 MHz, CDCl3) δ 174.6, 138.8, 137.1, 130.1, 129.7, 129.2, 129.1, 127.4, 127.1, 60.7, 37.2, 27.5; HRMS (CI) exact mass calc'd for (C17H18N2O) requires m/z 266.1419, found m/z 266.1421. [α]D=−101.8 (c=1.0, CHCl3). The enantiopurity of the catalyst was confirmed (>99% ee) by HPLC analysis (AD column, 10% isopropanol in hexanes, 1 mL/min, 254 nm); (2S, 5S) isomer tr=17.1 min, (2R, 5R) isomer tr=15.5 min.

reactant | (S)-phenylalanine methyl amide | 28.1 mmol, 5.0 g | CNC([C@@H](N)CC1=CC=CC=C1)=O | C10H14N2O
reactant | benzaldehyde | 30.9 mmol, 3.14 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | p-toluenesulfonic acid monohydrate | 2.8 mmol, 535 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 40 mL | CO | CH4O
product | (2S, 5S)-5-Benzyl-3-methyl-2-phenyl-imidazolidin-4-one | 32% yield | C(C1=CC=CC=C1)[C@H]1C(N([C@H](N1)C1=CC=CC=C1)C)=O | C17H18N2O
